US05461158
cis-4-(1-mercapto-1-methylethyl)-2-mercaptomethyl-4-butanelactam (compound No.16-1)
A solution of cis-N-benzyl-4-[1-(4-methoxybenzylthio)-1-methylethyl]-2-(4-methoxybenzylthiomethyl)-4-butanelactam (compound No.14-1, 0.40 g) in THF (8 ml) was added in liquid ammonia (60 ml). To the solution sodium metal (0.12 g) was added in a small portion under nitrogen atmosphere. After an addition of ammonium chloride, ammonia was evaporated and a product was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The separated crystals were filtered to give 70 mg (46%) of the titled compound.

reactant | cis-N-benzyl-4-[1-(4-methoxybenzylthio)-1-methylethyl]-2-(4-methoxybenzylthiomethyl)-4-butanelactam | 0.40 g | C(C1=CC=CC=C1)N1C([C@H](C[C@H]1C(C)(C)SCC1=CC=C(C=C1)OC)CSCC1=CC=C(C=C1)OC)=O | C31H37NO3S2
reactant | ammonia | 60 ml | N | H3N
reactant | sodium | 0.12 g | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | cis-4-(1-mercapto-1-methylethyl)-2-mercaptomethyl-4-butanelactam | 70 mg, 46% | SC(C)(C)[C@@H]1C[C@@H](C(=O)N1)CS | C8H15NOS2
